US04490374
2,3-Dimethoxy-6-nitrobenzaldehyde
A slurry of NaH (16.0 g, 50% oily dispersion, 337 mM) in dimethylformamide (200 ml) was treated dropwise with a solution of 2-hydroxy-3-methoxy-6-nitrobenzaldehyde (49.0 g, 248 mM) in DMF (300 ml) at such a rate that the temperature did not exceed 35° C. The mixture is aged at room temperature for 1 hour and then a large excess of methyl iodide (100 ml) is added dropwise. A slight exothermic reaction occurs. The mixture is then stirred vigorously for 19 hours at room temperature. After the removal of excess methyl iodide, the reaction mixture is poured into ice-water (1 l). The crude product, a brown solid, is filtered, washed with cold water, and then recrystallized from isopropyl alcohol (700 ml) to afford the product as a tan solid; yield 27.9 g (53.3%); m.p. 106°-108° C.

reactant | NaH | 337 mM, 16.0 g | [H-].[Na+]
reactant | 2-hydroxy-3-methoxy-6-nitrobenzaldehyde | 248 mM, 49.0 g | OC1=C(C=O)C(=CC=C1OC)[N+](=O)[O-] | C8H7NO5
reactant | methyl iodide | 100 ml | CI | CH3I
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | DMF | 300 ml | CN(C)C=O | C3H7NO
product | 2,3-Dimethoxy-6-nitrobenzaldehyde | COC1=C(C=O)C(=CC=C1OC)[N+](=O)[O-] | C9H9NO5
